US08067447B2
1-(4-Fluorophenyl)-5-iodo-1H-indazole (2.0 g, 5.9 mmol) was dissolved in dry THF (30 mL), cooled to −78° C., and treated with nBuLi (4 mL, 1.6 M in hexanes, 6.5 mmol). After 1 h, cyclohexanone (919 uL, 8.88 mmol) was added all at once and the reaction was allowed to warm to rt. The crude reaction was extracted from water using EtOAc and the combined organic layers were dried with MgSO4, concentrated in vacuo, filtered, and chromatographed on a SiO2 MPLC column using 25% EtOAc in hexanes. Obtained 700 mg (38%) of 1-(1-(4-fluorophenyl)-1H-indazol-5-yl)cyclohexanol. MS found: (M+H)+=311.

reactant | 1-(4-Fluorophenyl)-5-iodo-1H-indazole | 5.9 mmol, 2.0 g | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)I | C13H8FIN2
reactant | nBuLi | 6.5 mmol, 1.6 M, 4 mL | [Li]CCCC
reactant | cyclohexanone | 8.88 mmol, 919 uL | C1(CCCCC1)=O | C6H10O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-(1-(4-fluorophenyl)-1H-indazol-5-yl)cyclohexanol | 700 mg, 38% | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C1(CCCCC1)O | C19H19FN2O
